US04211702
Cephalosporin C, sodium salt, dihydrate, 4.8 gm (10 mmol), was suspended in 80 ml of tetrahydrofuran (dried over 5A molecular sieves). Diethyl aniline (dried over KOH), 7.4 gm (8.0 ml, 50 mmol), and acetyl chloride, 4.7 gm (4.3 ml, 60 mmol), were added. The mixture was stirred in a water bath at about 30° to 40° C. for 1 hour and then at room temperature for about 2.5 hours. Filtration removed 5.7 gm of undissolved material. The reaction solution was cooled in an ice-alcohol bath before addition to a solution of the triphenyl phosphitechlorine complex prepared as in Paragraph A above, but using tetrahydrofuran as a solvent instead methylene chloride. After mixing the two solutions, a solution of diethylaniline, 3.3 gm (22 mmol) in 20 ml of dry tetrahydrofuran, was added dropwise over a period of 10 minutes. The reaction mixture was stirred in the cold for 2 hours, cooled further to about -35° C., and then treated with 16 ml of propylene glycol. A stream of dry hydrogen chloride was passed through the reaction for about 15 seconds. The reaction solution was refrigerated overnight. Workup as described in Paragraph A immediately hereinabove yielded 1.2 gm (45%) of 7-ACA.

reactant | Cephalosporin C | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)CCC[C@H](C(=O)O)N)SC1)C(=O)O | C16H21N3O8S
reactant | sodium | [Na] | Na
reactant | Diethyl aniline | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 7-Amino-3-acetoxymethyl-3-cephem-4-carboxylic acid | 1.2 gm, 45% | NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O | C10H12N2O5S
